* THS4541
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: THS4541
* Date: 02/11/2015
* Model Type: All In One
* Simulator: TINA-TI
* Simulator Version: 9
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: August 2014
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
* Version 2.0 : Change the CFMB input range from VIL of 0.9V into 0.87V
*               and VIH from 1.1V into 1.09V
*
*****************************************************************************
* Notes:
* 1. The following parameters are modeled: 
*    Input Offset Voltage, Input Bias Current, Input Bias Current Offset 
*    Current Consumption, Frequency Response, Voltage Noise, Current Noise, 
*    Slew Rate, Large Signal Bandwidth, CMRR, PSRR, Input Resistance and 
*    Cap, Input range, Output Impendance, Output swing, Output current
*    CMFB frequency response, CMFB Slew Rate, CMFB offset, CMFB ib current, 
*    CMFB input resistance and capacitance, CMFB input range
*
* 2. The following parameters are not modeled: 
*    Harmonic Distortion 
*****************************************************************************



.subckt THS4541 VOUTM VOUTP VOCM VINM VINP VEE VCC PD
XI0 VOUTM VOUTP VOCM VINM VINP VEE VCC PD THS4541_HT1
.ends







.subckt BALUN V VCM VN VP
R9 V NET023 1e-6
R4 NET035 VCM 1e-6
R5 NET023 NET016 1e-6
R3 NET027 VN 1e-6
R6 0 NET021 1e-6
R7 NET023 NET019 1e-6
R8 0 NET017 1e-6
R1 NET022 VP 1e-6
XTRANSFORMEREK0 NET016 NET021 NET022 NET035 TRANSFORMEREK0
XTRANSFORMEREK1 NET019 NET017 NET035 NET027 TRANSFORMEREK1
.ends BALUN


.subckt THS4541_SWITCHES_HT1 PD VCC VEE IN OUT
XAHDLINV3 PD PDINV VCC VEE HPA_INV_IDEAL
XAHDLI0 PDINV OUT 0 sw_l4 PARAMS: VON=1.1
XAHDLI34 PD OUT IN sw_l4 PARAMS: VON=1.1
.ends THS4541_SWITCHES_HT1


.subckt THS4541_IQ_HT1 PD VCC VCCMAIN VEE VEEMAIN
G0 NET4 NET7 POLY(1) VCC VEE  9.1e-3  200e-6
I2 NET037 NET051 5e-6
XAHDLI3 PDINV NET051 VEEMAIN sw_l4 PARAMS: VON=1.1
XAHDLI5 PD 0 NET037 sw_l4 PARAMS: VON=1.1
XAHDLI6 PD NET051 0 sw_l4 PARAMS: VON=1.1
XAHDLI7 PDINV VCCMAIN NET037 sw_l4 PARAMS: VON=1.1
XAHDLI23 PD NET7 VEEMAIN sw_l4 PARAMS: VON=1.1
XAHDLI38 PDINV 0 NET4 sw_l4 PARAMS: VON=1.1
XAHDLI39 PDINV NET7 0 sw_l4 PARAMS: VON=1.1
XAHDLI22 PD VCCMAIN NET4 sw_l4 PARAMS: VON=1.1
XAHDLINV3 PD PDINV VCC VEE HPA_INV_IDEAL
.ends THS4541_IQ_HT1


.subckt THS4541_ZIN_HT1 IN1 IN2 OUT1 OUT2
C6 OUT1 OUT2 850e-15
C8 OUT2 0 1e-15
C7 0 OUT1 1e-15
R10 IN2 OUT2 100e-3
R9 IN1 OUT1 100e-3
R5 OUT1 OUT2 110e3
.ends THS4541_ZIN_HT1


.subckt THS4541_CMFB_VINRANGE_HT1 VCC VEE VIH VIL VIN VOUT
R0 VIN NET011 1e-3
D6 VIL NET011 DIDEAL1
D7 NET011 VIH DIDEAL1
V0 NET011 VOUT 0
V14 VIL VEE 870e-3
V12 VCC VIH 1.09
.ends THS4541_CMFB_VINRANGE_HT1


.subckt THS4541_CMFB_HT1 VCC VEE VOCM VOUT VOUTM VOUTP CMFBVIHVILSIGNAL
XAHDLI43 NET041 NET036 CMFBVIHVILSIGNAL VCC VEE HPA_OR2
XAHDLI41 NET026 NET045 NET041 VCC VEE HPA_COMP_IDEAL
XAHDLI42 NET042 NET026 NET036 VCC VEE HPA_COMP_IDEAL
V0 NET029 VOCM 2e-3
V22 VIH NET045 10e-3
V23 NET042 VIL 10e-3
I3 0 VOCM 1e-15
XI1 VCC VEE VIH VIL NET029 NET026 THS4541_CMFB_VINRANGE_HT1
C1 VOCM 0 1.2e-12
C0 VOUT 0 1e-15
GAHDLI6 0 VOUT VALUE { LIMIT(V(NET026,NET8)*1.85, -870e-3, 870e-3) }
R3 VOUT 0 350.4e3
R1 VCC VOCM 93.6e3
R0 VEE VOCM 94.4e3
R5 VOUTM NET8 1e6
R2 VOUTP NET8 1e6
.ends THS4541_CMFB_HT1


.subckt ANALOG_BUFFER VOUT VIN
R0 VIN 0 1e9
R1 VOUT 0 1e9
E0 VOUT 0 VIN 0 1
.ends ANALOG_BUFFER


.subckt THS4541_OUTPUTCIR_HT1 PD RECCIRSIGNAL VCC VCCMAIN VEE VEEMAIN VOH VOL VIN VOUT
H2 VIMON 0 VCURSOURCEDETECT  1
R1 VIMON 0 1e9
R4 NET48 NET15 100e-3
R12 NET50 NET17 1.233
XI11 NET76 NET15 ANALOG_BUFFER
XI2 NET22 VIN ANALOG_BUFFER
D5 VOL NET15 DIDEAL1
D0 NET15 VOH DIDEAL1
D9 NET48 NET75 DIDEAL1
D8 NET76 NET79 DIDEAL1
VE1 NET31 VEE 200e-3
VCURSOURCEDETECT NET15 NET34 0
VCURSINKDETECT VOUT NET34 0
V13 VCC NET41 200e-3
V18 NET53 NET17 0
H0 NET41 VOH POLY(1) Vcursourcedetect  0  17.2  0  0  1e-9  0  0  0  0  0  1e-9
H1 VOL NET31 POLY(1) Vcursinkdetect  0  17.2  0  0  1e-9  0  0  0  0  0  1e-9
XI0 VCCMAIN VEEMAIN NET45 THS4541_OUTPUTCIR_ILOAD_HT1
L0 NET17 NET48 1.8e-9
C3 NET22 NET50 1e-6
XI1 NET22 NET53 VIMON THS4541_OutputCir_Rout_HT1
XAHDLINV0 RECCIRSIGNAL NET55 VCC VEE HPA_INV_IDEAL
GE0 0 NET67 NET22 NET50 200
XAHDLI49 NET55 NET67 0 sw_l4 PARAMS: VON=1.1
XAHDLI50 RECCIRSIGNAL NET67 NET50 sw_l4 PARAMS: VON=1.1
XI3 PD VCC VEE VIMON NET45 THS4541_SWITCHES_HT1
E2 NET75 NET76 POLY(1) VCC VEE  0  2e-3
E1 NET79 NET48 POLY(1) VCC VEE  0  2e-3
.ends THS4541_OUTPUTCIR_HT1


.subckt THS4541_VINRANGE_HT1 VCC VEE VIN VOUT
R0 VIN NET011 1e-3
D6 NET9 NET011 DIDEAL1
D7 NET011 NET8 DIDEAL1
V0 NET011 VOUT 0
V14 NET9 VEE -200e-3
V12 VCC NET8 1.2
.ends THS4541_VINRANGE_HT1


.subckt THS4541_NONDOMPOLE_HT1 VIN VOUT
XI23 NET4 VIN ANALOG_BUFFER
C1 VOUT 0 75e-12
R3 VOUT NET4 1
.ends THS4541_NONDOMPOLE_HT1


.subckt THS4541_RECOVERYCIRCUIT_HT1 A B RECCIRSIGNAL VCC VEE VOH VOL VOUT
XAHDLI34 RECCIRSIGNAL A NET015 sw_l4 PARAMS: VON=1.1
XAHDLI41 VOUT NET019 NET027 VCC VEE HPA_COMP_IDEAL
XAHDLI42 NET021 VOUT NET026 VCC VEE HPA_COMP_IDEAL
XAHDLI43 NET027 NET026 RECCIRSIGNAL VCC VEE HPA_OR2
D6 NET9 NET015 DIDEAL1
D7 NET015 NET8 DIDEAL1
V22 VOH NET019 10e-3
V23 NET021 VOL 10e-3
V0 A B 0
V14 NET9 VEE -2.5
V12 VCC NET8 -2.5
.ends THS4541_RECOVERYCIRCUIT_HT1


.subckt THS4541_DOMPOLE_HT1 A B
R0 B A 175.2e3
C0 A 0 925e-12
.ends THS4541_DOMPOLE_HT1


.subckt THS4541_HT1 VOUTM VOUTP VOCM VINM VINP VEE VCC PD
XAHDLI46 CMFBVIHVILSIGNAL NET0233 NET050 sw_l4 PARAMS: VON=1.1
XAHDLI44 CMFBVIHVILSIGNAL NET20 NET34 sw_l4 PARAMS: VON=1.1
XI43 NET050 NET0233 NET058 NET40 VCC_INT VEE_INT THS4541_GmItail_HT1
XI42 POWER VCC_INT VEE_INT VOUTM_INT VOUTM THS4541_SWITCHES_HT1
XI41 POWER VCC_INT VEE_INT VOUTP_INT VOUTP THS4541_SWITCHES_HT1
R0 VCC_INT PD 10e6
XAHDLINV3 PD NET070 VCC_INT VEE_INT HPA_INV_IDEAL
XAHDLINV0 NET070 POWER VCC_INT VEE_INT HPA_INV_IDEAL
XI40 POWER VCC_INT VCC VEE_INT VEE THS4541_IQ_HT1
XI33 VINM VINP NET053 NET086 THS4541_ZIN_HT1
XI32 VCC_INT VEE_INT VOCM NET10 VOUTM_INT VOUTP_INT CMFBVIHVILSIGNAL THS4541_CMFB_HT1
XI31 POWER VOUTM_RCS VCC_INT VCC VEE_INT VEE VOUTM_VOH VOUTM_VOL NET0105 VOUTM_INT
+ THS4541_OUTPUTCIR_HT1

XI30 POWER VOUTP_RCS VCC_INT VCC VEE_INT VEE VOUTP_VOH VOUTP_VOL NET062 VOUTP_INT
+ THS4541_OUTPUTCIR_HT1

XI24 VCC_INT VEE_INT NET0120 NET0233 THS4541_VINRANGE_HT1
XI25 VCC_INT VEE_INT NET0104 NET050 THS4541_VINRANGE_HT1
XI26 NET057 NET062 THS4541_NONDOMPOLE_HT1
XI27 NET061 NET0105 THS4541_NONDOMPOLE_HT1
XI29 NET0124 NET061 VOUTM_RCS VCC_INT VEE_INT VOUTM_VOH VOUTM_VOL VOUTM_INT
+ THS4541_RECOVERYCIRCUIT_HT1

XI28 NET0122 NET057 VOUTP_RCS VCC_INT VEE_INT VOUTP_VOH VOUTP_VOL VOUTP_INT
+ THS4541_RECOVERYCIRCUIT_HT1

XI16 NET34 NET10 THS4541_DOMPOLE_HT1
XI11 NET20 NET10 THS4541_DOMPOLE_HT1
I0 NET0233 0 -9.925e-6
I3 NET050 0 -10.075e-6
XI17 NET053 NET064 THS4541_Vnoise_HT1
XI18 NET064 NET086 THS4541_Inoise_HT1
XI19 VCC_INT VEE_INT NET086 NET046 THS4541_PSRR_HT1
XI21 NET046 NET0104 THS4541_CMRR_HT1
V2 NET064 NET0120 100e-6
V1 NET40 NET20 0
V0 NET20 NET0122 0
V9 NET34 NET0124 0
V10 NET058 NET34 0
XI12 VCC_INT VCC ANALOG_BUFFER
XI13 VEE_INT VEE ANALOG_BUFFER
.ends THS4541_HT1




.SUBCKT HPA_OR2 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS


.SUBCKT HPA_INV_IDEAL 1 2 VDD VSS
E1 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
.ENDS


.SUBCKT HPA_COMP_IDEAL INP INN OUT VDD VSS
E1 OUT 0 VALUE = { IF( (V(INP) > V(INN)), V(VDD), V(VSS) ) }
.ENDS


.SUBCKT sw_l4 S A B PARAMS: VON=1.1
S1 A B S 0 VSWITCH2
.MODEL VSWITCH2 VSWITCH Roff=1e9 Ron=1e-3 Voff=-0.01 Von={VON}
.ENDS



.SUBCKT TRANSFORMEREK0 1 2 3 4
K1 L1 L2 0.5
L1 1 2 10uH
L2 3 4 10uH
.ends



.SUBCKT TRANSFORMEREK1 1 2 3 4
K1 L1 L2 0.5
L1 1 2 10uH
L2 3 4 10uH
.ends


.MODEL DIDEAL1 D N=0.1m

.SUBCKT THS4541_GmItail_HT1  VINP VINM IOUTP IOUTM VCC VEE



.PARAM ITAILMAX_X1 = { 3.0 }
.PARAM ITAILMAX_Y1 = { 590m }

.PARAM ITAILMAX_X2 = { 5.0 }
.PARAM ITAILMAX_Y2 = { 680m }

.PARAM ITAILMAX_SLOPE = 
+ { ( ITAILMAX_Y2 - ITAILMAX_Y1 ) / ( ITAILMAX_X2 - ITAILMAX_X1 ) }
.PARAM ITAILMAX_INTCP = 
+ { ITAILMAX_Y1 - ITAILMAX_SLOPE * ITAILMAX_X1 }

EITAILMAX ITAILMAX 0 VALUE = 
+ { ITAILMAX_SLOPE * V(VCC,VEE) + ITAILMAX_INTCP  }


.PARAM ITAILMIN_X1 = { 3.0 }
.PARAM ITAILMIN_Y1 = { 590m }

.PARAM ITAILMIN_X2 = { 5.0 }
.PARAM ITAILMIN_Y2 = { 680m }

.PARAM ITAILMIN_SLOPE = 
+ { ( ITAILMIN_Y2 - ITAILMIN_Y1 ) / ( ITAILMIN_X2 - ITAILMIN_X1 ) }
.PARAM ITAILMIN_INTCP = 
+ { ITAILMIN_Y1 - ITAILMIN_SLOPE * ITAILMIN_X1 }

EITAILMIN ITAILMIN 0 VALUE = 
+ { ITAILMIN_SLOPE * V(VCC,VEE) + ITAILMIN_INTCP  }


G1 IOUTP IOUTM VALUE = { LIMIT ( 2.543 * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) }
.ENDS





.SUBCKT THS4541_OutputCir_Rout_HT1 A B VIMON
.PARAM Ro_Iout_0A = 160
.PARAM Multiplier = 0


G1 A B VALUE = { V(A,B) * 1/(Ro_Iout_0A - Multiplier * ABS(V(VIMON)) )  }

.ENDS


.SUBCKT THS4541_OUTPUTCIR_ILOAD_HT1  VDD VSS VIMON
G1 VDD 0 VALUE = {IF(V(VIMON) >= 0,V(VIMON),0)}
G2 VSS 0 VALUE = {IF(V(VIMON) < 0,V(VIMON),0)}
.ENDS


.SUBCKT THS4541_Vnoise_HT1 A B
.PARAM X = { 1k  }
.PARAM Y = { 6.1 }
.PARAM Z = { 2.2  }
X1 A B VNSE PARAMS: NLF = { Y } FLW = { X }  NVR = { Z }
.ENDS


.SUBCKT THS4541_Inoise_HT1 A B
.PARAM X = { 10k  }
.PARAM Y = { 5e3 }
.PARAM Z = { 1.9e3 }
X1 A B FEMT PARAMS: NLFF = { Y }  FLWF = { X } NVRF = { Z }
.ENDS


.SUBCKT THS4541_PSRR_HT1 VDD VSS A B


X1 VDD VSS A B 0 PSRR_DUAL_NEW PARAMS:
+ PSRRP = 109.5 FPSRRP = 1000k
+ PSRRN = 109.5 FPSRRN = 1000k
.ENDS


.SUBCKT THS4541_CMRR_HT1 A B
 
X1 A B 0 CMRR_NEW PARAMS: CMRR = 106 FCMRR = 1000K
.ENDS



.SUBCKT VNSE  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS



.SUBCKT FEMT  1 2 PARAMS: NLFF = 0.1 FLWF = 0.001 NVRF = 0.1
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS






.SUBCKT PSRR_SINGLE   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P
.ENDS

.SUBCKT PSRR_SINGLE_NEW   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1e6 }
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

E1  VO VI 1a GNDF 1
C2  VDD VSS 10P
.ENDS

.SUBCKT PSRR_DUAL   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}
G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

E1  VO VI VALUE = {V(1,GNDF) + V(3,GNDF)}
C3  VDD VSS 10P
.ENDS

.SUBCKT PSRR_DUAL_NEW   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}

G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1e6 }
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}


G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

EC  301 GNDF 3 GNDF 1
GRC  301 302 VALUE = { V(301,302)/1e6 }
CC  302 GNDF 1e3
ED  3 3a VALUE = {V(302,GNDF)}


E1  VO VI VALUE = {V(1a,GNDF) + V(3a,GNDF)}
C3  VDD VSS 10P
.ENDS



.SUBCKT CMRR   VI  VO  GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VI GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}
E1  VI VO 1 GNDF 1
.ENDS

.SUBCKT CMRR_NEW   VI  VO  GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VI GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = {V(101,102)/1e6}
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

E1  VI VO 1a GNDF 1
.ENDS







